US05576321
Preparation of (2S)-(+)-3-[4-(4-fluoro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 193 from 4-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.50 g, 2.3 mmol) and (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.44 g, 2.3 mmol). The resulting free base was obtained as a yellow foam. Yield 0.14 g (15%). mp 90°-95° C. FDMS m/e=405 (M+ of free base).

reactant | 4-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.3 mmol, 0.50 g | FC1=C2C(=CNC2=CC=C1)C=1CCNCC1 | C13H13FN2
reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 2.3 mmol, 0.44 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
product | (2S)-(+)-3-[4-(4-fluoro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol | FC1=C2C(=CNC2=CC=C1)C=1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C24H24FN3O2
